// Generated for: spectre
// Generated on: Feb 16 10:22:10 2015
// Design library name: MYLIB
// Design cell name: tutorial3
// Design view name: config
simulator lang=spectre
global 0 vdd!
include "/auto/ee2/Cadence/local/designkits/BYU/lib/AMI12/models/spectre/allModels.scs"

// Library name: MYLIB
// Cell name: inv_1x
// View name: analog_extracted
// Inherited view list: spectre cmos_sch cmos.sch schematic veriloga ahdl
subckt inv_1x A Y
    \+1 (Y A vdd! vdd!) ami12P w=1.2e-05 l=1.2e-06 as=4.32e-11 ad=3.96e-11 \
        ps=1.92e-05 pd=1.86e-05 m=1 region=sat
    \+0 (Y A 0 0) ami12N w=6e-06 l=1.2e-06 as=1.98e-11 ad=1.98e-11 \
        ps=1.26e-05 pd=1.26e-05 m=1 region=sat
ends inv_1x
// End of subcircuit definition.

// Library name: MYLIB
// Cell name: aoi21_1x
// View name: analog_extracted
// Inherited view list: spectre cmos_sch cmos.sch schematic veriloga ahdl
subckt aoi21_1x A B C Y
    \+4 (7 B vdd! vdd!) ami12P w=2.4e-05 l=1.2e-06 as=4.32e-11 ad=4.68e-11 \
        ps=3.6e-06 pd=3.9e-06 m=1 region=sat
    \+5 (Y C 7 vdd!) ami12P w=2.4e-05 l=1.2e-06 as=4.68e-11 ad=7.92e-11 \
        ps=3.9e-06 pd=3.06e-05 m=1 region=sat
    \+3 (vdd! A 7 vdd!) ami12P w=2.4e-05 l=1.2e-06 as=7.92e-11 ad=4.32e-11 \
        ps=3.06e-05 pd=3.6e-06 m=1 region=sat
    \+1 (Y B 8 0) ami12N w=1.2e-05 l=1.2e-06 as=7.2e-12 ad=2.16e-11 \
        ps=1.2e-06 pd=6.9e-06 m=1 region=sat
    \+0 (8 A 0 0) ami12N w=1.2e-05 l=1.2e-06 as=3.96e-11 ad=7.2e-12 \
        ps=1.86e-05 pd=1.2e-06 m=1 region=sat
    \+2 (0 C Y 0) ami12N w=6e-06 l=1.2e-06 as=2.16e-11 ad=2.34e-11 \
        ps=6.9e-06 pd=1.38e-05 m=1 region=sat
ends aoi21_1x
// End of subcircuit definition.

// Library name: MYLIB
// Cell name: tutorial3
// View name: schematic
// Inherited view list: spectre cmos_sch cmos.sch schematic veriloga ahdl
I20 (0 net4) inv_1x
I19 (net4 net33) inv_1x
I14 (net7 net36) inv_1x
I13 (0 net7) inv_1x
I12 (0 net12) inv_1x
I11 (net12 net35) inv_1x
I6 (net14 net13) inv_1x
I5 (OUTPUT net14) inv_1x
I4 (vdd! net20) inv_1x
I3 (net20 \5V) inv_1x
I2 (net23 INPUT) inv_1x
I0 (net29 net23) inv_1x
I1 (\5V 0 INPUT OUTPUT) aoi21_1x
V0 (net29 0) vsource type=pulse val0=0 val1=5 period=50n delay=0 rise=100p \
        fall=100p width=25n
V1 (vdd! 0) vsource type=dc dc=5
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=150n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
