// Generated for: spectre
// Generated on: Apr 15 20:52:28 2018
// Design library name: analog_ece6218
// Design cell name: OTA
// Design view name: schematic
simulator lang=spectre
global 0
parameters p5vonly=0
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami06N.m"
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami06P.m"
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami16N.m"
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami16P.m"

// Library name: analog_ece6218
// Cell name: OTA
// View name: schematic
M9 (net26 net26 net09 vdd!) ami06P w=19.95u l=19.95u as=2.9925e-11 \
        ad=2.9925e-11 ps=42.9u pd=42.9u m=1 region=sat
M10 (net28 net26 net09 vdd!) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
M7 (net23 net23 net09 vdd!) ami06P w=6.45u l=12.75u as=9.675e-12 \
        ad=9.675e-12 ps=15.9u pd=15.9u m=1 region=sat
M8 (net32 net23 net09 vdd!) ami06P w=6.45u l=12.75u as=9.675e-12 \
        ad=9.675e-12 ps=15.9u pd=15.9u m=1 region=sat
VcascP (Vout net019 net32 vdd!) ami06P w=6.45u l=3.15u as=9.675e-12 \
        ad=9.675e-12 ps=15.9u pd=15.9u m=1 region=sat
M2 (net29 v\+ net28 vdd!) ami06P w=799.95u l=4.05u as=1.19993e-09 \
        ad=1.19993e-09 ps=1.6029m pd=1.6029m m=1 region=sat
M1 (net25 v\- net28 vdd!) ami06P w=799.95u l=4.05u as=1.19993e-09 \
        ad=1.19993e-09 ps=1.6029m pd=1.6029m m=1 region=sat
VcascN (Vout net018 net33 gnd!) ami06N w=12.0u l=3.15u as=1.8e-11 \
        ad=1.8e-11 ps=27.0u pd=27.0u m=1 region=sat
M6 (net33 net29 net017 gnd!) ami06N w=12.0u l=44.85u as=1.8e-11 ad=1.8e-11 \
        ps=27.0u pd=27.0u m=1 region=sat
M4 (net29 net29 net017 gnd!) ami06N w=12.0u l=44.85u as=1.8e-11 ad=1.8e-11 \
        ps=27.0u pd=27.0u m=1 region=sat
M3 (net25 net25 net017 gnd!) ami06N w=12.0u l=44.85u as=1.8e-11 ad=1.8e-11 \
        ps=27.0u pd=27.0u m=1 region=sat
M5 (net23 net25 net017 gnd!) ami06N w=12.0u l=44.85u as=1.8e-11 ad=1.8e-11 \
        ps=27.0u pd=27.0u m=1 region=sat
Ibias (net26 net017) isource type=dc dc=8.0uA m=1
VSS (net017 0) vsource type=dc dc=-2.5
V2 (net018 0) vsource type=dc dc=1
V1 (net019 0) vsource type=dc dc=1.2
VDD (net09 0) vsource type=dc dc=2.5
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=25 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
